US08957068B2
To (S)-(4-(1-aminoethyl)-2-fluorophenyl)(piperidin-1-yl)methanone (0.019 g, 0.076 mmol) was added (S)-3-(2-chloro-5-fluoropyrimidin-4-yl)-4-isopropyloxazolidin-2-one (0.030 g, 0.114 mmol), NMP (0.5 ml) and Hunig's Base (0.033 ml, 0.190 mmol). The reaction was heated at 105-110° C. for 8 hours or until done by LCMS. The reaction was let cool, 0.5 ml of NMP added, filtered, purified by prep LC and lyophilized to give 4.5 mg of (S)-3-(5-fluoro-2-((S)-1-(3-fluoro-4-(piperidine-1-carbonyl)phenyl)ethylamino)pyrimidin-4-yl)-4-isopropyloxazolidin-2-one as TFA Salt. LCMS m/z 474.2 (M+H)+, Rt 0.91 min.

reactant | (S)-(4-(1-aminoethyl)-2-fluorophenyl)(piperidin-1-yl)methanone | 0.076 mmol, 0.019 g | N[C@@H](C)C1=CC(=C(C=C1)C(=O)N1CCCCC1)F | C14H19FN2O
reactant | (S)-3-(2-chloro-5-fluoropyrimidin-4-yl)-4-isopropyloxazolidin-2-one | 0.114 mmol, 0.030 g | ClC1=NC=C(C(=N1)N1C(OC[C@@H]1C(C)C)=O)F | C10H11ClFN3O2
reactant | Hunig's Base | 0.190 mmol, 0.033 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | NMP | 0.5 ml | CN1CCCC1=O | C5H9NO
solvent | NMP | 0.5 ml | CN1CCCC1=O | C5H9NO
product | (S)-3-(5-fluoro-2-((S)-1-(3-fluoro-4-(piperidine-1-carbonyl)phenyl)ethylamino)pyrimidin-4-yl)-4-isopropyloxazolidin-2-one | 4.5 mg | FC=1C(=NC(=NC1)N[C@@H](C)C1=CC(=C(C=C1)C(=O)N1CCCCC1)F)N1C(OC[C@@H]1C(C)C)=O | C24H29F2N5O3
